US05593993
5-Bromo-2-ethoxybenzyl alcohol (2.78 g, 12.0 mmol) and pyridinium dichromate (4.51 g, 12.0 mmol) in 120 ml of CH2Cl2 was stirred at RT for 6 h. The mixture was filtered, washed with H2O, 0.5 N HCl and brine and dried over Na2SO4. The product was purified by silica gel column chromatography (EtOAc/petroleum ether 10:100) to give 5-bromo-2-ethoxybenzaldehyde.

reactant | 5-Bromo-2-ethoxybenzyl alcohol | 12.0 mmol, 2.78 g | BrC=1C=CC(=C(CO)C1)OCC | C9H11BrO2
reactant | pyridinium dichromate | 12.0 mmol, 4.51 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-ethoxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)OCC | C9H9BrO2
